US08242125B2
98-A. (±)-3-(Acetyl-{6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (±)-3-({6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester (60 mg, 0.10 mmol) in THF (5 mL) acetyl chloride (12 mg, 0.15 mmol) and TEA (20 mg, 0.2 mmol) are added at 0° C. After 30 min, the mixture is diluted with EtOAc, washed with water, brine, and the organic layer is dried over Na2SO4, filtered, and condensed. The residue is separated by FCC (0-10%, 2 M NH3 in MeOH/DCM) to provide the title compound. MS (ESI) m/z 638.1 (M+1).

reactant | (±)-3-({6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.10 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CC(CC1)NCC1=NC=NC(=C1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O | C30H31F3N6O4
reactant | THF | 0.15 mmol, 5 mL, 12 mg | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-3-(Acetyl-{6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC1=NC=NC(=C1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O)C(C)=O | C32H33F3N6O5
